US07115600B2
3-Benzyloxymethyl-cyclobutanone.
To a stirring solution of [(3,3-dimethoxy-cyclobutyl)methoxymethyl]-benzene (13.0 g, 55.1 mmol) in 200 mL of a mixture of acetone:water (3:1) was added p-toluenesulfonic acid mono hydrate (2.1 g, 11.0 mmol). The reaction mixture was heated to 65 C for 45 minutes. Both TLC and GS/MS analysis indicated complete consumption of starting material. The reaction was cooled to room temperature and then the acetone was removed under reduced pressure. The resulting mixture was diluted with ethyl acetate and washed with an aqueous solution 5% NaOH. The layers were separated and the organic layer was dried over magnesium sulfate, filtered through a fritted funnel and then concentrated under reduced pressure. Purification of this material was accomplished by flash chromatography using a Biotage Column 75 small, eluting with a 10% EtOAc/hexanes. The product containing fractions were collected and concentrated under reduced pressure to yield the title compound (6.0 g, 58% yield) as a colorless oil.

reactant | [(3,3-dimethoxy-cyclobutyl)methoxymethyl]-benzene | 55.1 mmol, 13.0 g | COC1(CC(C1)COCC1=CC=CC=C1)OC | C14H20O3
reactant | p-toluenesulfonic acid mono hydrate | 11.0 mmol, 2.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone water | CC(=O)C.O
product | 3-Benzyloxymethyl-cyclobutanone | 6.0 g, 58% yield | C(C1=CC=CC=C1)OCC1CC(C1)=O | C12H14O2
